US08383644B2
(S)-3-[5-(4-Cyano-phenyl)-thiophen-2-yl]-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid
(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid (30 mg) was coupled with (S)-2-amino-3-[5-(4-cyano-phenyl)-thiophen-2-yl]-propionic acid methyl ester hydrochloride according to General Procedure L. The resulting ester (25 mg) was hydrolyzed according to General Procedure B to give the title compound (22 mg). LCMS (m/z): 861.

reactant | (3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | 30 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
reactant | (S)-2-amino-3-[5-(4-cyano-phenyl)-thiophen-2-yl]-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC=1SC(=CC1)C1=CC=C(C=C1)C#N)N)=O
product | (S)-3-[5-(4-Cyano-phenyl)-thiophen-2-yl]-2-{[(3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid | 22 mg | C(#N)C1=CC=C(C=C1)C1=CC=C(S1)C[C@@H](C(=O)O)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)[C@@H](CC)C3=CC=CC=C3 | C48H41Cl2N3O6S
